US07179823B1
Sodium hydride (60%, oily, 2.88 g) was added to a solution of methyl 5-hydroxy-3-pyridinecarboxylate (10.00 g) and N-phenyltrifluoromethanesulfonimide (24.00 g) in tetrahydrofuran (200 ml) at 0° C., and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium bicarbonate solution, then with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to obtain methyl 5-trifluoromethanesulfonyloxy-3-pyridinecarboxylate (18.06 g, yield 97%) as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:4, volume ratio).

reactant | Sodium hydride | 2.88 g | [H-].[Na+]
reactant | methyl 5-hydroxy-3-pyridinecarboxylate | 10.00 g | OC=1C=C(C=NC1)C(=O)OC | C7H7NO3
reactant | N-phenyltrifluoromethanesulfonimide | 24.00 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | water | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | methyl 5-trifluoromethanesulfonyloxy-3-pyridinecarboxylate | 18.06 g, yield 97% | FC(S(=O)(=O)OC=1C=C(C=NC1)C(=O)OC)(F)F | C8H6F3NO5S
